### PR TITLE
[Merged by Bors] - feat: `Mon_ C` is cartesian-monoidal if `C` is

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

---

- [x] depends on: #26057

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean [hunk 1]
```diff
@@ -40,6 +40,26 @@ theorem lift_comp_one_right {A : C} {B : C} [Mon_Class B] (f : A ⟶ B) (g : A 
...
+instance : CartesianMonoidalCategory (Mon_ C) where
+  isTerminalTensorUnit :=
+    .ofUniqueHom (fun M ↦ .mk (toUnit _) (toUnit_unique ..))
+      fun M f ↦ by ext; exact toUnit_unique ..
+  fst M N := .mk (fst M.X N.X) (by simp [toUnit_unique _ (𝟙 _)])
+  snd M N := .mk (snd M.X N.X) (by simp [toUnit_unique _ (𝟙 _)])
+  tensorProductIsBinaryProduct M N :=
+    BinaryFan.IsLimit.mk _ (fun {T} f g ↦ .mk (lift f.hom g.hom)
+      (by simp; ext <;> simp [toUnit_unique _ (𝟙 _)])
+      (by simp; ext <;> simp [toUnit_unique _ (𝟙 _), ← tensor_comp_assoc]))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean]: Here, we are supposed to squeeze simp.

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
It seems some issues need to be fixed after merging master:

bors cancel

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean [hunk 2]
```diff
@@ -404,6 +404,22 @@ theorem braiding_inv_fst (X Y : C) : (β_ X Y).inv ≫ fst _ _ = snd _ _ := by
 theorem braiding_inv_snd (X Y : C) : (β_ X Y).inv ≫ snd _ _ = fst _ _ := by
   simp [fst_def, snd_def, ← BraidedCategory.braiding_inv_naturality_right_assoc]
 
+@[reassoc (attr := simp)]
+lemma tensorμ_fst (W X Y Z : C) :  tensorμ W X Y Z ≫ fst (W ⊗ Y) (X ⊗ Z) = fst W X ⊗ fst Y Z := by
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean]:
```suggestion
lemma tensorμ_fst (W X Y Z : C) : tensorμ W X Y Z ≫ fst (W ⊗ Y) (X ⊗ Z) = fst W X ⊗ fst Y Z := by
```

**Comment by YaelDillies** [comment]
The very brittle automation surrounding the proof of (the categorical version of) (ab)(cd)=(ac)(bd) in a commutative monoid object broke overnight (probably due to Yuma unifying `Mon_` and `Mon_Class`). I have therefore finally summoned the courage to write a proper normalisation procedure to prove these sorts of results (which is something we at Toric have been wanting for the past three months): #26057

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by fpvandoorn** [comment]
bors merge
